US08895596B2
Step C Ethyl 3-{[6-chloro-5-(2′-hydroxybiphenyl-4-yl)-1-{[2-(trimethylsilyl)ethoxy]methyl}-1H-benzimidazol-2-yl]oxy}cyclobutanecarboxylate.
A 50 mL flask was charged with ethyl 3-{[5-(4-bromophenyl)-6-chloro-1-{[2-(trimethylsilyl)ethoxy]methyl}-1H-benzimidazol-2-yl]oxy}cyclobutanecarboxylate (150 mg, 0.259 mmol), 2-hydroxybenzeneboronic acid, pinacol ester (60 mg, 0.273 mmol), Pd(PPh3)4 (20 mg, 0.017 mmol), DMF (5 mL), and 1 M aqueous K2CO3 (0.78 ml, 0.780 mmol). The reaction was degassed with N2 and then heated at 120° C. for 1 hour. Then the volatiles were removed in vacuo and the residue partitioned between EtOAc and H2O. The aqueous phase was extracted with EtOAc. The combined organic layers were washed with brine, dried over (MgSO4), filtered, and concentrated. Chromatography of the resulting residue over silica (preparative TLC) eluting with 45% EtOAc/hexanes afforded the desired product. LC-MS: calculated for C32H37ClN2O5Si 592.22, observed m/e: 593.05 (M+H)+ (Rt 2.67/4 min).

reactant | ethyl 3-{[5-(4-bromophenyl)-6-chloro-1-{[2-(trimethylsilyl)ethoxy]methyl}-1H-benzimidazol-2-yl]oxy}cyclobutanecarboxylate | 0.259 mmol, 150 mg | BrC1=CC=C(C=C1)C1=CC2=C(N(C(=N2)OC2CC(C2)C(=O)OCC)COCC[Si](C)(C)C)C=C1Cl | C26H32BrClN2O4Si
reactant | 2-hydroxybenzeneboronic acid | OC1=C(C=CC=C1)B(O)O | C6H7BO3
reactant | K2CO3 | 0.780 mmol, 1 M, 0.78 ml | C(=O)([O-])[O-].[K+].[K+]
catalyst | Pd(PPh3)4 | 0.017 mmol, 20 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
solvent | DMF | 5 mL | CN(C)C=O | C3H7NO
product | Ethyl 3-{[6-chloro-5-(2′-hydroxybiphenyl-4-yl)-1-{[2-(trimethylsilyl)ethoxy]methyl}-1H-benzimidazol-2-yl]oxy}cyclobutanecarboxylate | ClC=1C(=CC2=C(N(C(=N2)OC2CC(C2)C(=O)OCC)COCC[Si](C)(C)C)C1)C1=CC=C(C=C1)C1=C(C=CC=C1)O | C32H37ClN2O5Si
